US08809267B2
To a solution of 4-(4-bromo-benzenesulfonyloxy)-pyrrolidine-2-carboxylic acid methyl ester HCl salt (4 g, 10 mmol) in DCM (50 mL) was added tert-butoxycarbonylamino-(tetrahydro-pyran-4-yl)-acetic acid (2.86 g, 11 mmol), HATU (5.7 g, 15 mmol) and DIPEA (7 mL, 40 mmol). The solution was stirred at room temperature for 16 h. The solution was diluted with DCM and washed twice with aq NH4Cl and brine. The organic layer was dried over MgSO4 and concentrated in vacuo. The desired product was purified by silica gel column chromotography from hexane/EtOAc to provide 4-(4-bromo-benzenesulfonyloxy)-1-[2-tert-butoxycarbonylamino-2-(tetrahydro-pyran-4-yl)-acetyl]-pyrrolidine-2-carboxylic acid methyl ester (4.25 g 70% yield). LCMS found 606 ([M+H]+.

reactant | 4-(4-bromo-benzenesulfonyloxy)-pyrrolidine-2-carboxylic acid methyl ester HCl salt | 10 mmol, 4 g | Cl.COC(=O)C1NCC(C1)OS(=O)(=O)C1=CC=C(C=C1)Br
reactant | tert-butoxycarbonylamino-(tetrahydro-pyran-4-yl)-acetic acid | 11 mmol, 2.86 g | C(C)(C)(C)OC(=O)NC(C(=O)O)C1CCOCC1 | C12H21NO5
reactant | HATU | 15 mmol, 5.7 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 40 mmol, 7 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-bromo-benzenesulfonyloxy)-1-[2-tert-butoxycarbonylamino-2-(tetrahydro-pyran-4-yl)-acetyl]-pyrrolidine-2-carboxylic acid methyl ester | 4.25 g, 70% yield | COC(=O)C1N(CC(C1)OS(=O)(=O)C1=CC=C(C=C1)Br)C(C(C1CCOCC1)NC(=O)OC(C)(C)C)=O | C24H33BrN2O9S
